US07459263B2
First, methyl 2,4-di-(tert-amyl)phenoxybenzoate was prepared. To a stirred suspension under argon of sodium hydride (60% dispersion in mineral oil, 1.1 g, 46.5 mmol, washed with ligroin to remove the oil) in pyridine (60 mL) was added dropwise a solution of 2,4-di-(tert-amyl)phenol (12.0 g, 51.2 mmol) in 20 mL of pyridine. The mixture was stirred for 2 h at room temperature and then treated dropwise with a solution of methyl 2-bromobenzoate (10 g, 46.5 mmol) in 10 mL of pyridine. Copper (I) chloride (1.15 g, 11.6 mmol) was added, and the mixture was heated at reflux 16 h and then cooled to ambient. The mixture was diluted with diethyl ether, washed successively with 10% aqueous HCl, water, and brine, and then dried over Na2SO4. The solvent was removed at reduced pressure to deposit dark brown oil. This crude product was purified by column chromatography to give 25.5 g, 78% of theory) of a light brown oil. 1H NMR (CDCl3): δ 0.70 (t, 6H), 1.3 (s, 6H), 1.4 (s, 6H), 1.63 (q, 2H), 1.85 (q, 2H), 3.85 (s, 3H), 6.68 (d, 1H), 6.82 (d, 1H), 7.05 (m, 2H), 7.3 (br s, 1H), 7.35 (t, 1H), 7.9 (dd, 1H).

reactant | 2,4-di-(tert-amyl)phenol | 51.2 mmol, 12.0 g | C(C)(C)(CC)C1=C(C=CC(=C1)C(C)(C)CC)O | C16H26O
reactant | methyl 2-bromobenzoate | 46.5 mmol, 10 g | BrC1=C(C(=O)OC)C=CC=C1 | C8H7BrO2
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | Copper (I) chloride | 11.6 mmol, 1.15 g | [Cu]Cl
product | methyl 2,4-di-(tert-amyl)phenoxybenzoate | C(C)(C)(CC)C1=C(OC2=C(C(=O)OC)C=CC=C2)C=CC(=C1)C(C)(C)CC | C24H32O3
